US08022222B2
Using the method of Example 32, 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol), ethyl carbonochloridate (0.03359 mL, 0.3513 mmol), and N1,N1,N2-trimethylethane-1,2-diamine (0.1191 mL, 0.9164 mmol) were reacted in THF (2 mL) to provide N-(2-(dimethylamino)ethyl)-N-methyl-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride (0.052 g, 35.14% yield) as off white solid. 1H NMR (CDCl3) δ 8.22 (d, 1H), 7.50 (m, 1H), 7.45 (m, 1H), 7.34 (bs, 1H), 7.19 (d, 1H), 6.69 (m, 2H), 6.39 (s, 1H), 4.05 (t, 2H), 3.31 (m, 2H), 3.19 (s, 3H), 2.91 (s, 6H), 2.38 (s, 3H); Mass spectrum (esi) m/z=412 (100) (M+H).

reactant | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.3513 mmol, 0.03359 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | N1,N1,N2-trimethylethane-1,2-diamine | 0.9164 mmol, 0.1191 mL | CN(CCNC)C | C5H14N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(2-(dimethylamino)ethyl)-N-methyl-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride | 0.052 g, 35.14% yield | Cl.Cl.CN(CCN(C(C1=CC(=CC=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C)=O)C)C | InChI=1S/C21H25N5O2S.2ClH/c1-15-14-29-21(23-15)24-19-13-18(8-9-22-19)28-17-7-5-6-16(12-17)20(27)26(4)11-10-25(2)3;;/h5-9,12-14H,10-11H2,1-4H3,(H,22,23,24);2*1H
